US08242129B2
6-[6-(2-chlorophenyl)-2-oxo-1,2-dihydropyrimidin-4-yl]-1,3-benzoxazol-2(3H)-one
A round flask was charged with 2,4-dichloro-6-(2-chlorophenyl)pyrimidine (150 mg), 2-oxo-2,3-dihydrobenzo[d]oxazol-6-ylboronic acid (104 mg), Pd(dppf)Cl2(15 mg), 1 M NaHCO3 (0.5 mL) and THF (5 mL). The reaction mixture was stirred at 70° C. for 2 hours, then 4 mL of conc. HCl was added. The reaction was heated to 90° C. for 5 hours. The mixture was filtrated, concentrated and purified by prep-HPLC to give the product. 1H NMR (400 MHz, d6-DMSO): δ 11.00 (s, br, 2H), 7.81-7.75 (m, 2H), 7.62-7.43 (m, 3H), 7.12-7.00 (m, 3H). MS (EI) for C17H10ClN3O3: 339 (MH+).

reactant | 2,4-dichloro-6-(2-chlorophenyl)pyrimidine | 150 mg | ClC1=NC(=CC(=N1)Cl)C1=C(C=CC=C1)Cl | C10H5Cl3N2
reactant | 2-oxo-2,3-dihydrobenzo[d]oxazol-6-ylboronic acid | 104 mg | O=C1OC2=C(N1)C=CC(=C2)B(O)O | C7H6BNO4
reactant | NaHCO3 | 1 M, 0.5 mL | C(=O)(O)[O-].[Na+]
reactant | HCl | 4 mL | Cl | ClH
catalyst | Pd(dppf)Cl2 | 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-[6-(2-chlorophenyl)-2-oxo-1,2-dihydropyrimidin-4-yl]-1,3-benzoxazol-2(3H)-one | ClC1=C(C=CC=C1)C1=CC(=NC(N1)=O)C1=CC2=C(NC(O2)=O)C=C1 | C17H10ClN3O3
